US04511731
A 10 g-portion of p-isopropenylphenol, 1.0 equivalent allyl bromide, 1.0 equivalent K2CO3, and 20 ml acetone were mixed and refluxed overnight. The reaction mixture was poured into 60 ml water and extracted with two portions of ether. The combined ether layers were washed with two portions of 10% aqueous NaOH, two portions of saturated aqueous NaCl and dried over K2CO3. Removal of solvent followed by distillation under reduced pressure gave a 63% yield of 1-(1-methylethenyl)-4-(2-propenyloxy)benzene, mp 22°-23° C.

reactant | p-isopropenylphenol | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | allyl bromide | 1.0 equivalent | C(C=C)Br | C3H5Br
reactant | K2CO3 | 1.0 equivalent | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 60 ml | O | H2O
product | 1-(1-methylethenyl)-4-(2-propenyloxy)benzene | 63% yield | CC(=C)C1=CC=C(C=C1)OCC=C | C12H14O
